vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 6108.95658
R2 T 0 11870.169489
C3 T 0 3.95e-06
.op
.control
run
print v(T)
print @r1[i] @r2[i]
print @i1[i]
.endc
.end
